US05183820
8-Fluoro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one
Cupric acetate (2.9 g) was added to a stirred solution of 4-[(4-fluorophenyl)amino]-5,6-dihydro-2(1H)-pyridinone (1.5 g) and palladium (II) acetate (200 mg) in dry DMF (40 ml). The mixture was heated at 130° for 1 h, evaporated in vacuo and the residue was extracted with methanol (250 ml). This solution was concentrated in vacuo and the residue was purified by FCC eluting with System A (100:8:1) to give the title compound (840 mg), m.p. 242°-245°.

reactant | 4-[(4-fluorophenyl)amino]-5,6-dihydro-2(1H)-pyridinone | 1.5 g | FC1=CC=C(C=C1)NC1=CC(NCC1)=O | C11H11FN2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 200 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-Fluoro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one | 840 mg | FC1=CC=2C3=C(NC2C=C1)CCNC3=O | C11H9FN2O
